US08859732B2
The obtained wet crystals of Leu-OBzl (2-MeO-4-OC12OC22) were dissolved in chloroform (13 mL), Fmoc-Leu-OH (373 mg, 1.06 mmol) and HOBt (14.3 mg, 106 μmol) were added at room temperature, and EDC.HCl (223 mg, 1.16 mmol) was further added under ice-cooling. The mixture was warmed to room temperature, stirred overnight, and concentrated under reduced pressure. Methanol (10 mL) was added to the residue, and the precipitate was collected by filtration to give Fmoc-Leu-Leu-OBzl (2-MeO-4-OC12OC22) (1.02 g, 93% yield relative to Bzl (2-MeO-4-OC12OC22)OH).

reactant | Leu-OBzl | N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1 | C13H19NO2
reactant | Fmoc-Leu-OH | 1.06 mmol, 373 mg | N([C@@H](CC(C)C)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C21H23NO4
reactant | EDC.HCl | 1.16 mmol, 223 mg | CCN=C=NCCCN(C)C.Cl
solvent | chloroform | 13 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | HOBt | 106 μmol, 14.3 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
product | Fmoc-Leu-Leu-OBzl | 1.02 g, 93% yield | N([C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C34H40N2O5
